* c:\fossee\cmost\cmost.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
v2  vin gnd sine(0 1.8 100 0 0)
v3 net-_m3-pad1_ gnd  dc 1.8
m2 net-_m1-pad3_ vin gnd gnd CMOSN W=100u L=100u M=1
m1 vout vin net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m6 net-_m3-pad1_ vout net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m3 net-_m3-pad1_ vin net-_m3-pad3_ net-_m3-pad1_ CMOSP W=100u L=100u M=1
m4 net-_m3-pad3_ vin vout net-_m3-pad1_ CMOSP W=100u L=100u M=1
m5 net-_m3-pad3_ vout gnd net-_m3-pad1_ CMOSP W=100u L=100u M=1
.tran 0.1e-03 20e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
